US05962458
1-(2-Hydroxyethyl)-1,4-dihydro-4-pyridone (221 mg, 1.6 mmol) was added to a stirred solution of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (230 mg, 0.7 mmol), (prepared as described for the starting material in Example 15), and tributylphosphine (0.53 ml, 2.1 mmol) in methylene chloride (20 ml) under nitrogen at 5° C. 1,1'-(Azodicarbonyl)dipiperidine (552 mg, 2.2 mmol) was added in portions over 10 minutes and the mixture was stirred at 5° C. for 2 hours, allowed to warm to ambient temperature and stirred for a further 18 hours. The mixture was diluted with ether, the insolubles removed by filtration and the solvent was removed from the filtrate by evaporation. The residue was partitioned between ethyl acetate and water, the organic phase was separated and dried (MgSO4), and solvent was removed by evaporation. The residue was dissolved in acetone and ethereal hydrogen chloride (1.2 ml of a 3M solution) was added. The mixture was left to stand for 15 minutes and the precipitated product was collected by filtration, washed with ether and dried to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-[2-(4-oxo-1,4-dihydro-1-pyridyl)ethoxy]quinazoline hydrochloride (54 mg, 16%).

reactant | 1-(2-Hydroxyethyl)-1,4-dihydro-4-pyridone | 1.6 mmol, 221 mg | OCCN1C=CC(C=C1)=O | C7H9NO2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.7 mmol, 230 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | tributylphosphine | 2.1 mmol, 0.53 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(Azodicarbonyl)dipiperidine | 2.2 mmol, 552 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-[2-(4-oxo-1,4-dihydro-1-pyridyl)ethoxy]quinazoline hydrochloride | 54 mg, 16% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C=CC(C=C2)=O)C=C1)F | InChI=1S/C22H18ClFN4O3.ClH/c1-30-20-11-16-19(12-21(20)31-9-8-28-6-4-15(29)5-7-28)25-13-26-22(16)27-18-3-2-14(23)10-17(18)24;/h2-7,10-13H,8-9H2,1H3,(H,25,26,27);1H
